US04710573
6-Chloro-3-(1-methyl-4-piperidinyl)-1H-indazole
To a stirred solution, under nitrogen, of 13.0 g of 4-(6-chloro-1H-indazol-3-yl)piperidine-1-carboxylic acid methyl ester in 150 ml of tetrahydrofuran was added, dropwise, 48 ml of a 1M solution of lithium aluminum hydride (0.048 mole) in tetrahydrofuran. The solution was stirred under reflux for 1 hr. The reaction mixture was cooled in an ice-bath and water was added slowly. The reaction mixture was filtered, the filter cake washed with tetrahydrofuran and methanol, and the filtrate was concentrated. Recrystallization of the residue from ethanol-water yielded 7.6 g (69%) of product, mp 211°-213° C.

reactant | 4-(6-chloro-1H-indazol-3-yl)piperidine-1-carboxylic acid methyl ester | 13.0 g | COC(=O)N1CCC(CC1)C1=NNC2=CC(=CC=C12)Cl | C14H16ClN3O2
reactant | lithium aluminum hydride | 0.048 mole | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 6-Chloro-3-(1-methyl-4-piperidinyl)-1H-indazole | 7.6 g, 69% | ClC1=CC=C2C(=NNC2=C1)C1CCN(CC1)C | C13H16ClN3
